US05068325
14b) 2-Amino-6-(3-(4-cyano-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(4-cyano-phenyl)acrolein and 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine by reductive amination with sodium cyanoborohydride. Yield: 8% of theory, Melting point: 199°-205° C. (decomp).

reactant | 3-(4-cyano-phenyl)acrolein | C(#N)C1=CC=C(C=C1)C=CC=O | C10H7NO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 2-Amino-6-(3-(4-cyano-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 8% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)C#N | C17H18N4S
